* BFM505  SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT363 DIE MODEL : BFR505
* 1: COLLECTOR1; 2: BASE1; 3: EMITTER1;
* 4: COLLECTOR2; 5: BASE2; 6: EMITTER2
.SUBCKT BFM505  1 2 3 4 5 6
Q1 7 8 9 9 BFR505
Q2 10 11 12 12 BFR505
* SOT363 parasitic model
               Lb1    2  8 .6n
               Lb2    5 11 .6n
               Le1    3  9 1n
               Le2    6 12 1n
               Lp1    1  7 .4n
               Lp2    4 10 .4n
               Cc1b1  1  2 48f
               Cc2b2  4  5 48f
               Cc1b2  1  5 3f
               Cc2b1  2  4 3f
               Cc1e1  1  3 17f
               Cc1e2  1  6 36f
               Cc2e2  4  6 17f
               Cc2e1  3  4 36f
               Cb1b2  2  5 1f
               Cc1c2  1  4 6f
               Ce1e2  3  6 6f
               Cb1e1  2  3 27f
               Cb2e2  5  6 27f
               Cb1e2  2  6 3f
*
* PHILIPS SEMICONDUCTORS                                     Version:   1.0
* Filename:   BFR505.PRM                                     Date: Feb 1992
*
.MODEL  BFR505   NPN
+(
+              IS = 1.34186E-016
+              BF = 1.80000E+002
+              NF = 9.88285E-001
+             VAF = 3.83491E+001
+             IKF = 1.50000E-001
+             ISE = 2.78188E-014
+              NE = 2.05149E+000
+              BR = 5.51997E+001
+              NR = 9.82213E-001
+             VAR = 2.45944E+000
+             IKR = 2.92072E-003
+             ISC = 1.74527E-017
+              NC = 1.06245E+000
+              RB = 2.00000E+001
+             IRB = 1.00000E-006
+             RBM = 2.00000E+001
+              RE = 1.17190E+000
+              RC = 4.35000E+000
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 2.84731E-013
+             VJE = 6.00000E-001
+             MJE = 3.03697E-001
+              TF = 7.03759E-012
+             XTF = 1.23460E+001
+             VTF = 1.70189E+000
+             ITF = 3.06496E-002
+             CJC = 2.42404E-013
+             VJC = 1.88622E-001
+             MJC = 4.14981E-002
+)
.ENDS