* BFM520  SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT363 DIE MODEL : BFR520
* 1: COLLECTOR1; 2: BASE1; 3: EMITTER1;
* 4: COLLECTOR2; 5: BASE2; 6: EMITTER2
.SUBCKT BFM520  1 2 3 4 5 6
Q1 7 8 9 9 BFR520
Q2 10 11 12 12 BFR520
* SOT363 parasitic model
               Lb1    2  8 .6n
               Lb2    5 11 .6n
               Le1    3  9 1n
               Le2    6 12 1n
               Lp1    1  7 .4n
               Lp2    4 10 .4n
               Cc1b1  1  2 48f
               Cc2b2  4  5 48f
               Cc1b2  1  5 3f
               Cc2b1  2  4 3f
               Cc1e1  1  3 17f
               Cc1e2  1  6 36f
               Cc2e2  4  6 17f
               Cc2e1  3  4 36f
               Cb1b2  2  5 1f
               Cc1c2  1  4 6f
               Ce1e2  3  6 6f
               Cb1e1  2  3 27f
               Cb2e2  5  6 27f
               Cb1e2  2  6 3f
*
* PHILIPS SEMICONDUCTORS                                     Version:   1.0
* Filename:   BFR520.PRM                                     Date: Feb 1992
*
.MODEL  BFR520   NPN
+(
+              IS = 1.01677E-015
+              BF = 2.20182E+002
+              NF = 1.00065E+000
+             VAF = 4.80619E+001
+             IKF = 5.10042E-001
+             ISE = 2.83095E-013
+              NE = 2.03568E+000
+              BR = 1.00714E+002
+              NR = 9.88109E-001
+             VAR = 1.69288E+000
+             IKR = 2.35262E-003
+             ISC = 2.44898E-017
+              NC = 1.02256E+000
+              RB = 1.00000E+001
+             IRB = 1.00000E-006
+             RBM = 1.00000E+001
+              RE = 7.75349E-001
+              RC = 2.21000E+000
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 1.24548E-012
+             VJE = 6.00000E-001
+             MJE = 2.58153E-001
+              TF = 8.61625E-012
+             XTF = 6.78866E+000
+             VTF = 1.41469E+000
+             ITF = 1.10365E-001
+             PTF = 4.50197E+001
+             CJC = 4.47646E-013
+             VJC = 1.89234E-001
+)
.ENDS