* BFT93W SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT323 DIE MODEL : BFT93
* 1: COLLECTOR; 2: BASE; 3: EMITTER
.SUBCKT BFT93W 1 2 3
Q1 6 5 7 7 BFT93
* SOT323 parasitic model
               Lb  4 5 .6n
               Le  7 8 .6n
               L1  2 4 .34n
               L2  1 6 .1n
               L3  3 8 .34n
              Ccb  4 6 100f
              Cbe  4 8 2f

* PHILIPS SEMICONDUCTORS                                     Version:     2.0
* Filename:    BFT93.PRM                                     Date: March 1992
*
.MODEL  BFT93   PNP
+(
+              IS = 8.35127E-016
+              BF = 4.85648E+001
+              NF = 1.00043E+000
+             VAF = 1.90118E+001
+             IKF = 1.46824E-001
+             ISE = 9.09455E-014
+              NE = 1.74928E+000
+              BR = 1.21832E+001
+              NR = 9.97694E-001
+             VAR = 3.37492E+000
+             IKR = 6.74270E-003
+             ISC = 2.34297E-014
+              NC = 1.44993E+000
+              RB = 1.00000E+001
+             IRB = 1.00000E-006
+             RBM = 1.00000E+001
+              RE = 2.00000E-001
+              RC = 3.80000E+000
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 1.57034E-012
+             VJE = 6.00000E-001
+             MJE = 3.82204E-001
+              TF = 1.48531E-011
+             XTF = 2.20970E+000
+             VTF = 2.98987E+000
+             ITF = 1.43721E-002
+             CJC = 1.99525E-012
+             VJC = 5.84499E-001
+             MJC = 2.81320E-001
+)
.ENDS